US09085534B2
Preparation 81A: 6-(cyclopropylmethoxy)-3,4-dihydronaphthalen-1(2H)-one
To a solution of 6-hydroxy-1-tetralone (2.0 g, 12.3 mmol) in ACN (30 mL) was added (bromomethyl)cyclopropane (2.0 g, 14.7 mmol) and K2CO3 (3.4 g, 24.6 mmol) at rt. The mixture was heated at 80° C. overnight. After the reaction was cooled to rt, it was diluted with EtOAc, filtered, and concentrated. The residue was purified by column chromatography (20:1 PE/EtOAc) to give 2.3 g (87%) of the title compound as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 0.35-0.40 (2H, m), 0.65-0.71 (2H, m), 1.25-1.32 (1H, m), 2.08-2.16 (2H, m), 2.62 (2H, t, J=6.3 Hz), 2.93 (2H, t, J=6.0 Hz), 3.87 (2H, d, J=7.2 Hz), 6.71 (1H, s), 6.83 (1H, dd, J=2.1, 8.4 Hz), 8.01 (1H, d, J=8.4 Hz).

reactant | 6-hydroxy-1-tetralone | 12.3 mmol, 2.0 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | (bromomethyl)cyclopropane | 14.7 mmol, 2.0 g | BrCC1CC1 | C4H7Br
reactant | K2CO3 | 24.6 mmol, 3.4 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 30 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-(cyclopropylmethoxy)-3,4-dihydronaphthalen-1(2H)-one | 2.3 g, 87% | C1(CC1)COC=1C=C2CCCC(C2=CC1)=O | C14H16O2
